US03953595
3-Methylthio-5-trifluoromethylbenzoic Acid
To a solution of 10 g. (0.045 mole) of 3-mercapto-5-trifluoromethylbenzoic acid, and 100 ml. of 1N sodium hydroxide in 100 ml. of ethanol is added 3.8 ml. (0.06 mole) of methyl iodide. After the reaction has stirred at room temperature for one hour, it is acidified with 12N hydrochloric acid, and the precipitate of the final product is filtered and dried,8.6 g., m.p. 135°-140° C. A sample is sublimed at 175° C. and 0.03 mm pressure, m.p. 151°-152.5° C.

reactant | 3-mercapto-5-trifluoromethylbenzoic acid | 0.045 mole | SC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H5F3O2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | methyl iodide | 0.06 mole | CI | CH3I
reactant | hydrochloric acid | 12N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-Methylthio-5-trifluoromethylbenzoic Acid | CSC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C9H7F3O2S
